US07446118B2
3-(3-Methyl-1H-indol-5-yl)-3-phenyl-acrylic acid ethyl ester LXXI (656 mg, 90% yield) was prepared from 3-methyl-5-bromoindole using the procedure described above for 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester LVIII (see Example 14).

reactant | 3-methyl-5-bromoindole | CC1=CNC2=CC=C(C=C12)Br | C9H8BrN
reactant | 3-(3-cyano-1H-Indol-4-yl)-3-phenyl-acrylic acid ethyl ester | C(C)OC(C=C(C1=CC=CC=C1)C1=C2C(=CNC2=CC=C1)C#N)=O | C20H16N2O2
product | 3-(3-Methyl-1H-indol-5-yl)-3-phenyl-acrylic acid ethyl ester | 90% yield | C(C)OC(C=C(C1=CC=CC=C1)C=1C=C2C(=CNC2=CC1)C)=O | C20H19NO2
